Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
CT scan dye
 
Attending: ___
 
Chief Complaint:
high-grade muscle invasive micropapillary bladder cancer
 
Major Surgical or Invasive Procedure:
___ PROCEDURES:
1. Robot-assisted laparoscopic radical cystectomy.
2. Robot-assisted laparoscopic radical prostatectomy.
3. Robot-assisted laparoscopic bilateral extended pelvic lymph 
node dissection.
___ PROCEDURE: Left single-J ureteral stent EXCHANGE

 
History of Present Illness:
___ with 2-3cm bladder tumor found to be high-grade muscle 
invasive micropapillary 
 
Past Medical History:
ALLERGIC RHINITIS  
 DIABETES MELLITUS  
 GLAUCOMA  
 HYPERLIPIDEMIA  
 HYPERTENSION  
 OBESITY  

 PAST SURGICAL HISTORY:  
 Multiple ortho surgeries  

 
Social History:
___
Family History:
Mother had diabetes and stroke. Father died when the patient was 
___ years, he is not sure of the cause. 
 
Physical Exam:
WdWn, NAD, AVSS
Abdomen soft, appropriately tender along incision
Incision is c/d/I
Stoma is well perfused; Urine color is yellow
Ureteral stents noted via stoma
 drain has been removed
Bilateral lower extremities are warm, dry, well perfused.  There 
is no reported calf pain to deep palpation. No edema or pitting
 
Pertinent Results:
___ 05:25AM BLOOD WBC-6.4 RBC-3.50* Hgb-10.9* Hct-33.2* 
MCV-95 MCH-31.1 MCHC-32.8 RDW-13.6 RDWSD-46.9* Plt ___
___ 05:10AM BLOOD WBC-8.7 RBC-3.82* Hgb-11.9* Hct-35.7* 
MCV-94 MCH-31.2 MCHC-33.3 RDW-13.4 RDWSD-46.1 Plt ___
___ 06:05AM BLOOD WBC-7.5 RBC-3.48* Hgb-10.9* Hct-33.0* 
MCV-95 MCH-31.3 MCHC-33.0 RDW-13.3 RDWSD-45.9 Plt ___
___ 06:15AM BLOOD WBC-6.6 RBC-3.48* Hgb-10.8* Hct-32.6* 
MCV-94 MCH-31.0 MCHC-33.1 RDW-13.2 RDWSD-45.5 Plt ___
___ 05:30PM BLOOD WBC-10.0# RBC-3.90* Hgb-11.9* Hct-37.5* 
MCV-96 MCH-30.5 MCHC-31.7* RDW-13.2 RDWSD-46.8* Plt ___

___ 06:20AM BLOOD Glucose-106* UreaN-22* Creat-1.1 Na-144 
K-3.3 Cl-114* HCO3-15* AnGap-18
___ 01:05PM BLOOD Glucose-113* UreaN-25* Creat-1.2 Na-143 
K-3.9 Cl-114* HCO3-16* AnGap-17
___ 05:25AM BLOOD Glucose-91 UreaN-27* Creat-1.2 Na-143 
K-3.6 Cl-116* HCO3-13* AnGap-18
___ 06:15AM BLOOD Glucose-99 UreaN-18 Creat-1.8* Na-138 
K-3.9 Cl-108 HCO3-17* AnGap-17
___ 05:30PM BLOOD Glucose-113* UreaN-15 Creat-1.9* Na-139 
K-4.8 Cl-107 HCO3-16* AnGap-21*

___ 05:25AM BLOOD Calcium-8.2*
___ 06:05AM BLOOD Calcium-8.5 Mg-2.2

___ 08:41PM BLOOD HBsAg-Negative
___ 08:41PM BLOOD HIV Ab-Negative
___ 08:41PM BLOOD HCV Ab-Negative

___ 06:00PM URINE Hours-RANDOM
___ 06:00PM URINE VoidSpe-VOIDED

___ 07:34AM ASCITES Creat-1.1
___ 08:00AM OTHER BODY FLUID Creat-1.9

___ STOOL C. difficile DNA amplification 
assay-FINAL INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-FINAL 
INPATIENT 

 
Brief Hospital Course:
Mr. ___ was admitted to the Urology service after undergoing 
robotic radical cystoprostatectomy and ileal conduit. No 
concerning intrao-perative events occurred; please see dictated 
operative note for details. Mr. ___ received ___ 
intravenous antibiotic prophylaxis and deep vein thrombosis 
prophylaxis with subcutaneous heparin. The post-operative course 
complicated by acute renal failure, mild right hydronephrosis, 
displaced right single-J ureteral stent. Please see respective 
reports and notes with regard to these complications. Series of 
events is approximated below: 

___: Flatus, small loose BM. OOBA several times. Febrile to 
101.8 in ___ blood, conduit urine (mostly mucus), renal pelvic 
urine sent for culture. CXR obtained. Unrestricted clears in ___.

___: Cr up to 2.0, ?stent obstructing right ureter. RUS- right 
hydro. Add on ___ for cysto suite right stent adjustment 
(MM). Belching, backed down to sips.  
  
___: Cr 1.3. Attempted right stent exchange in OR found 
proximal curl of stent in loop, unable to wire. right stent 
removed and left stent secured

___: bicarb acidosis likely related to bicarb loss at conduit. 
___ or may not improve with BICARB 1300mg PO BID but will try. 
Not usually treated. Will consider c/s PRN. Resumed HOME 
lisin/HCTZ, Metformin. Encouraged shakes, ADAT.  

___: f/u LABS, d/c home  

Through his hospitalization he was visited by ostomy nurse who 
saw the patient for ostomy teaching. At the time of discharge 
the wound was healing well with no evidence of erythema, 
swelling, or purulent drainage. His drain was removed and his
scrotal edema, which was monitored daily, was markedly improved. 
The ostomy was perfused and patent and the ureteral stent was 
visible. Post-operative follow up appointments were 
arranged/discussed and the patient was discharged home with 
visiting nurse services to further assist the transition to home 
with ostomy care.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. lisinopril-hydrochlorothiazide ___ mg oral DAILY 
2. MetFORMIN (Glucophage) 500 mg PO BID 
3. AcetaZOLamide 250 mg PO Q12H 
4. Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID 
5. Simvastatin 40 mg PO QPM 
6. insulin glargine 14 units subcutaneous DAILY 
7. Pilocarpine 4% 1 DROP BOTH EYES Q8H 
8. travoprost 0.004 % ___ 
9. Aspirin 81 mg PO DAILY 
10. Vitamin B Complex With C (B-complex with vitamin C) one PO 
oral DAILY 
11. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg one capsule(s) by mouth 
twice a day Disp #*60 Capsule Refills:*0 
2.  Enoxaparin Sodium 40 mg SC QAM Duration: 30 Days 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin [Lovenox] 40 mg/0.4 mL 40 mg SubQ QAM Disp #*30 
Syringe Refills:*0 
3.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Moderate 
RX *ibuprofen 200 mg 400-600 mg by mouth Q8hrs Disp #*30 Tablet 
Refills:*0 
4.  Sodium Bicarbonate 1300 mg PO BID 
RX *sodium bicarbonate 650 mg TWO tablet(s) by mouth twice a day 
Disp #*120 Tablet Refills:*0 
5.  GLUCERNA SHAKES
We recommend that you continue with the diabetic appropriate, 
protein/nutritional shakes. Many options available (proprietary 
and brand name) 
6.  AcetaZOLamide 250 mg PO Q12H  
7.  Aspirin 81 mg PO DAILY  
8.  Dorzolamide 2%/Timolol 0.5% Ophth. 1 DROP BOTH EYES BID  
9.  insulin glargine 14 units subcutaneous DAILY  
10.  lisinopril-hydrochlorothiazide ___ mg oral DAILY  
11.  MetFORMIN (Glucophage) 500 mg PO BID  
12.  Pilocarpine 4% 1 DROP BOTH EYES Q8H  
13.  Simvastatin 40 mg PO QPM  
14.  travoprost 0.004 % ___  
15.  Vitamin B Complex With C (B-complex with vitamin C) one PO 
oral DAILY  
16.  Vitamin D ___ UNIT PO DAILY  
17.GLUCERNA SHAKES
We recommend that you continue with the diabetic appropriate, 
protein/nutritional shakes. Many options available (proprietary 
and brand name)
18.OUTPATIENT
Your BICARB has been low; you must follow up with your PCP for 
electrolyte derangement early next week and have repeat lab 
work. You will also go home on an Rx for BICARB. 
19.OPTHALMOLOGY
F/U with your "eye" doctor about holding your acetazolamide for 
a short term while we work up your electrolytes. 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
1) MUSCLE INVASIVE BLADDER CANCER
2) Acute renal failure after robotic radical cystoprostatectomy 
and ileal conduit.
3) Mild right hydronephrosis on renal ultrasound.
4) Displaced right single-J ureteral stent.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the handout of instructions provided to 
you by your Urologist

-Please also refer to the instructions provided to you by the 
Ostomy nurse specialist that details the required care and 
management of your Urostomy

-You will be sent home with Visiting Nurse ___ 
services to facilitate your transition to home care of your 
urostomy

-Resume your pre-admission/home medications except as noted. 
Always call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor

-___ you have been prescribed IBUPROFEN, please note that you may 
take this in addition to the prescribed NARCOTIC pain 
medications ___ tylenol. FIRST, alternate Tylenol 
(acetaminophen) and Ibuprofen for pain control.

-REPLACE the Tylenol with the prescribed narcotic if the 
narcotic is combined with Tylenol (examples include brand names 
___, Tylenol #3 w/ codeine and their generic 
equivalents). ALWAYS discuss your medications (especially when 
using narcotics or new medications) use with the pharmacist when 
you first retrieve your prescription if you have any questions. 
Use the narcotic pain medication for break-through pain that is 
>4 on the pain scale.

-The MAXIMUM dose of Tylenol (ACETAMINOPHEN) is 4 grams (from 
ALL sources) PER DAY and remember that the prescribed narcotic 
pain medication may also contain Tylenol (acetaminophen) so this 
needs to be considered when monitoring your daily dose and 
maximum.

-If you are taking Ibuprofen (Brand names include ___ 
this should always be taken with food. If you develop stomach 
pain or note black stool, stop the Ibuprofen.

-Please do NOT drive, operate dangerous machinery, or consume 
alcohol while taking narcotic pain medications.

-Do NOT drive and until you are cleared to resume such 
activities by your PCP or urologist. You may be a passenger

-Colace may have been prescribed to avoid post surgical 
constipation and constipation related to narcotic pain 
medication. Discontinue if loose stool or diarrhea develops. 
Colace is a stool-softener, NOT a laxative.

-You may shower 2 days after surgery, but do not tub bathe, 
swim, soak, or scrub incision for 2 weeks

-If you had a drain or skin clips (staples) removed from your 
abdomen; bandage strips called “steristrips” have been applied 
to close the wound OR the site was covered with a gauze 
dressing. Allow any steristrips/bandage strips to fall off on 
their own ___ days). PLEASE REMOVE any "gauze" dressings within 
two days of discharge. Steristrips may get wet.

-No heavy lifting for 4 weeks (no more than 10 pounds). Do "not" 
be sedentary. Walk frequently. Light household chores (cooking, 
folding laundry, washing dishes) are generally “ok” but AGAIN, 
avoid straining, pulling, twisting (do NOT vacuum).
 
Followup Instructions:
___